US09126993B2
quinuclidin-3-yl biphenyl-3-ylmethylcarbamate
Using general procedure E, quinuclidin-3-yl 3-bromobenzylcarbamate (237 mg, 0.700 mmol), phenylboronic acid (171 mg, 1.4 mmol) and [PdCl2(pddf)]CH2Cl2 gave the title compound as a viscous semi-solid (110 mg, 47%). 1H NMR (500 MHz, CDCl3) δ 7.57 (d, J=7.5 Hz, 2H), 7.50 (m, 2H), 7.62-7.38 (m, 3H), 7.35 (t, J=7.5 Hz, 1H), 7.28 (d, J=8.0 Hz, 1H), 5.32-5.17 (m, 1H), 7.78 (m, 1H), 4.42 (d, J=6.0 Hz, 2H), 3.26 (m, 1H), 2.95-2.65 (m, 5H), 2.05 (m, 1H), 1.84 (m, 1H), 1.70 (m, 1H), 1.58 (m, 1H), 1.42 (m, 1H) ppm. 13C NMR (125 MHz, CDCl3) δ 155.2, 140.7, 139.8, 138.0, 128.1, 127.8, 126.4, 126.1, 125.5, 125.4, 125.3, 70.1, 54.4, 46.2, 45.3, 44.1, 24.3, 23.1, 18.2 ppm. Purity: >98% LCMS (214 nm & 254 nm); retention time 1.44 min; (M+1) 337.

reactant | quinuclidin-3-yl 3-bromobenzylcarbamate | 0.700 mmol, 237 mg | BrC=1C=C(CNC(OC2CN3CCC2CC3)=O)C=CC1 | C15H19BrN2O2
reactant | phenylboronic acid | 1.4 mmol, 171 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | quinuclidin-3-yl biphenyl-3-ylmethylcarbamate | 110 mg, 47% | C1(=CC(=CC=C1)CNC(OC1CN2CCC1CC2)=O)C2=CC=CC=C2 | C21H24N2O2
